US08114878B2
3.3.1 (2S,4R)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-4-hydroxy-pyrrolidine-2-carboxylic acid
1.12 g methyl (2S,4R)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-4-hydroxy-pyrrolidine-2-carboxylate as a mixture of diastereomers (cf Example 125) and 11.38 ml of 1 molar sodium hydroxide solution are placed in 10 ml of methanol, then refluxed for 4 hours with stirring. The resulting suspension is evaporated down, the residue is cooled and acidified with 2 molar hydrochloric acid and the suspension is evaporated down again. The product is purified by preparative HPLC (method A). 1.12 g of the product are obtained as a powder.

reactant | methyl (2S,4R)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-4-hydroxy-pyrrolidine-2-carboxylate | 1.12 g | ClC1=CC=C(C=C1)N1CCN(CC1)C=1N=C(C2=C(N1)CCS2=O)N2[C@@H](C[C@H](C2)O)C(=O)OC | C22H26ClN5O4S
reactant | sodium hydroxide | 1 molar, 11.38 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (2S,4R)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-4-hydroxy-pyrrolidine-2-carboxylic acid | 1.12 g | ClC1=CC=C(C=C1)N1CCN(CC1)C=1N=C(C2=C(N1)CCS2=O)N2[C@@H](C[C@H](C2)O)C(=O)O | C21H24ClN5O4S
